US06747023B1
(3S)-3-[[(5-tert-Butoxycarbonyl -4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methyl]amino]-1-[(6-chloronaphthalen-2-yl)sulfonyl]pyrrolidine
In the same manner as in Referential Example 321, a reaction was effected using 5-tert-butoxycarbonyl-2-formyl -4,5,6,7-tetrahydrothieno[3,2-c]pyridine (WO94/21599) and (3S)-3-amino-1-[(6-chloronaphthalen-2-yl)sulfonyl]pyrrolidine as starting materials, whereby the title compound was obtained.

reactant | 5-tert-butoxycarbonyl-2-formyl -4,5,6,7-tetrahydrothieno[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C=O | C13H17NO3S
reactant | (3S)-3-amino-1-[(6-chloronaphthalen-2-yl)sulfonyl]pyrrolidine | N[C@@H]1CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C14H15ClN2O2S
product | (3S)-3-[[(5-tert-Butoxycarbonyl -4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methyl]amino]-1-[(6-chloronaphthalen-2-yl)sulfonyl]pyrrolidine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)CN[C@@H]2CN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C27H32ClN3O4S2
